US05965546
N-[2-[3-[4-(6fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxylphenyl]acetamide
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (3.4 g, 16 mmol), N-[2-(3-phenylsulfonyloxypropoxy)phenyl]acetamide (5.3 g, 16 mmol), K2CO3 (2.2 g), and acetonitrile (50 ml) was stirred and refluxed for 5 hours. The reaction was poured into water, and the aqueous suspension was extracted with ethyl acetate. The ethyl acetate was washed (water and brine), dried (MgSO4) and the solvent was concentrated to afford 6.0 g of a thick, brown oil. The oil was chromatographed on a Waters Prep 500 LC on silica gel. Concentration of the appropriate fractions afforded 3.0 g of a beige solid. This was recrystallized from ethyl acetate to yield (with concentration of the mother liquors) 2.2 g (33%) of N-[2-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]phenyl]acetamide as a beige solid, m.p.=118-120° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 16 mmol, 3.4 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | N-[2-(3-phenylsulfonyloxypropoxy)phenyl]acetamide | 16 mmol, 5.3 g | C1(=CC=CC=C1)S(=O)(=O)OCCCOC1=C(C=CC=C1)NC(C)=O | C17H19NO5S
reactant | K2CO3 | 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-[3-[4-(6fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxylphenyl]acetamide | 3.0 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=CC=C2)CC(=O)N)C=C1 | C23H26FN3O3
